US07592373B2
4.277.a. 1-[2-(2-methoxy-4-nitrophenoxy)ethyl]-2,6-dimethylpiperidine
Prepared analogously to Example 1.1.c. from 1 g (3.622 mmol) of 1-(2-bromoethoxy)-2-methoxy-4-nitrobenzene and 1.5 mL (10.87 mmol) of 2,6-dimethylpiperidine. Yield: 0.85 g (76% of theory); C16H24N2O4 (M=308.37); calc.: molecular ion peak (M+H)+: 309; found: molecular ion peak (M+H)+: 309; Rf value: 0.55 (silica gel, dichloromethane/methanol (9:1)).

reactant | 1-(2-bromoethoxy)-2-methoxy-4-nitrobenzene | 3.622 mmol, 1 g | BrCCOC1=C(C=C(C=C1)[N+](=O)[O-])OC | C9H10BrNO4
reactant | 2,6-dimethylpiperidine | 10.87 mmol, 1.5 mL | CC1NC(CCC1)C | C7H15N
solvent | dichloromethane methanol | ClCCl.CO
product | 1-[2-(2-methoxy-4-nitrophenoxy)ethyl]-2,6-dimethylpiperidine | COC1=C(OCCN2C(CCCC2C)C)C=CC(=C1)[N+](=O)[O-] | C16H24N2O4
